US08859774B2
To a stirred solution of 2-(tributylstannyl)pyrimidine (428 μl, 1.351 mmol) in dry tetrahydrofuran (5 mL) was added butyllithium (2.5 M in hexanes) (554 μl, 1.384 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 1.5 hours. A solution of (R)-1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde (200 mg, 0.443 mmol) in dry tetrahydrofuran (5 mL) was added dropwise and the reaction mixture was stirred for 1.5 hours at −78° C. Water (25 mL) was added and the aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organic layers were washed with brine (30 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was partitioned between acetonitrile (25 mL) and hexanes (15 mL). The hexane layer was discarded. The acetonitrile layer was concentrated in vacuo to give a pale orange oil. The crude product was purified by chromatography on silica gel (gradient: 0-100% ethyl acetate in isohexane) to afford (R)-(1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyrimidin-2-yl)methanol (75 mg) as a colourless oil. LCMS (Method F, ES-API): RT 2.27 min, m+H=532.2.

reactant | 2-(tributylstannyl)pyrimidine | 1.351 mmol, 428 μl | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | butyllithium | 1.384 mmol, 2.5 M, 554 μl | C(CCC)[Li]
reactant | (R)-1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde | 0.443 mmol, 200 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)S(=O)(=O)C=2C=C(C=CC2)C | C24H22FN3O3S
reactant | Water | 25 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (R)-(1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyrimidin-2-yl)methanol | 75 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(CC1(C2)[C@@H](O)C2=NC=CC=N2)S(=O)(=O)C=2C=C(C=CC2)C | C28H26FN5O3S
